US04232032
A solution of sodium hydroxide (0.52 g.) in ethanol (50 ml.) was added dropwise to a stirred solution of 6-hydroxy-2,4-bis(trichloromethyl)benzo[1,3]dioxin (5 g.) in ethanol (100 ml.) and the resulting solution was stirred for 15 minutes. Methyl iodide (1.7 ml.) was then added, the reaction mixture was warmed on a steam bath for 1 hour, and evaporated to dryness under reduced pressure, and the oily residue was triturated with diethyl ether and filtered to remove sodium iodide. The filtrate was chromatographed on silica (Kieselgel 60; 200 g.) and the product was crystallised from ethanol to give 6-methoxy-2,4-bis(trichloromethyl)benzo[1,3]dioxin, m.p. 105°-107° C.

reactant | sodium hydroxide | 0.52 g | [OH-].[Na+]
reactant | 6-hydroxy-2,4-bis(trichloromethyl)benzo[1,3]dioxin | 5 g | OC=1C=CC2=C(C(OC(O2)C(Cl)(Cl)Cl)C(Cl)(Cl)Cl)C1 | C10H6Cl6O3
reactant | Methyl iodide | 1.7 ml | CI | CH3I
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 6-methoxy-2,4-bis(trichloromethyl)benzo[1,3]dioxin | COC=1C=CC2=C(C(OC(O2)C(Cl)(Cl)Cl)C(Cl)(Cl)Cl)C1 | C11H8Cl6O3
